data/mechanism_extracts/OrgLett/10.1021_acs.orglett.5c01237.json
{"doi": "10.1021_acs.orglett.5c01237", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "electrochemical 1,2-bifunctionalization of styrenes (and alpha-alkylation of unactivated alkenes) with 1,3-dicarbonyl compounds via anodic radical-polar crossover, installing a C-C bond and a benzoate ester from in situ oxocarbenium ring-opening", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "direct_SET", "carbocation"], "electrochemical_role": "Anodic single-electron oxidation of the deprotonated 1,3-dicarbonyl enolate to an alpha-carbon radical; a second anodic oxidation of the benzylic C-radical (after addition to styrene) gives a benzylic cation; cathode reduces water/H+ to H2", "key_intermediates": [{"name": "1,3-dicarbonyl enolate (carbanion I)", "smiles": "[O-]C(=C(C(=O)c1ccccc1))c1ccccc1", "role": "transient"}, {"name": "alpha-carbonyl C-radical (II) from 1,3-diketone", "smiles": "O=C(c1ccccc1)[CH]C(=O)c1ccccc1", "role": "reactive"}, {"name": "benzylic C-radical adduct (III) after radical addition to styrene", "smiles": "O=C(c1ccccc1)C(C(=O)c1ccccc1)C[CH]c1ccccc1", "role": "reactive"}, {"name": "benzylic carbocation (IV) after second anodic oxidation", "smiles": "O=C(c1ccccc1)C(C(=O)c1ccccc1)C[CH+]c1ccccc1", "role": "transient"}, {"name": "cyclic oxocarbenium intermediate (V)", "smiles": null, "role": "transient"}, {"name": "hemiketal/hydroxy-dihydrofuran intermediate (VI) from OH- addition", "smiles": null, "role": "transient"}, {"name": "ring-opened benzoate-bearing enolate (VII)", "smiles": null, "role": "transient"}, {"name": "1,2-bifunctionalized product 3aa (gamma-keto benzoate)", "smiles": "O=C(OC(c1ccccc1)CCC(=O)c1ccccc1)c1ccccc1", "role": "reactive"}, {"name": "alpha-alkylated alkene product 5aa (from HAT/isomerization with unactivated alkene)", "smiles": "CCCC=CCC(C(=O)c1ccccc1)C(=O)c1ccccc1", "role": "reactive"}], "electron_flow": "Base (OH- generated cathodically) deprotonates the 1,3-dicarbonyl; the anode oxidizes the enolate to an alpha-keto radical, which adds to the styrene to give a benzylic radical; a second anodic oxidation produces a benzylic cation that is captured intramolecularly by a carbonyl oxygen to form an oxocarbenium, which is opened by hydroxide/water to deliver the benzoate ester product, while H2 evolves at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction inhibited; TEMPO-adduct of the 1,3-dicarbonyl radical isolated in 55% and characterized by NMR/HRMS, confirming radical II"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction inhibited; BHT-adduct (1a'') detected by HRMS, supporting radical intermediacy"}, {"name": "divided cell experiment", "smiles": null, "purpose": "other", "observation": "Product 3aa formed (60%) only when reaction mixture was in the anodic chamber; no reaction in cathodic chamber, proving anodic initiation"}, {"name": "D2O (in place of H2O)", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "Product obtained with 99% deuterium incorporation (c1), consistent with protonation of enolate intermediate VII by water"}, {"name": "H2-18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O incorporated into the benzoate oxygen of the product (c2, HRMS), confirming water as the oxygen source"}, {"name": "anhydrous CH3CN under N2", "smiles": null, "purpose": "other", "observation": "Only trace product formed, indicating water is essential"}, {"name": "MeOH co-solvent (trap for oxocarbenium)", "smiles": "CO", "purpose": "intermediate_trap", "observation": "Methoxy-trapped cyclic acetal d2 detected by HRMS, supporting oxocarbenium intermediate V"}, {"name": "ethyl 3-oxo-3-phenylpropanoate (1a1) as 1,3-dicarbonyl", "smiles": "CCOC(=O)CC(=O)c1ccccc1", "purpose": "intermediate_trap", "observation": "Cyclized gamma-butyrolactone product d1 detected by NMR/HRMS, further supporting the oxocarbenium/cyclization pathway"}, {"name": "cyclic voltammetry of 1a vs 2a", "smiles": null, "purpose": "redox_probe", "observation": "E_ox(1a) < E_ox(2a) = 1.92 V vs Ag/AgCl, confirming the 1,3-dicarbonyl is oxidized first"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "With unactivated aliphatic alkenes the benzylic-cation/oxocarbenium pathway is unavailable, so after radical addition the system instead undergoes HAT/double-bond isomerization to give alpha-alkylated alkene products (5a-5d) rather than 1,2-bifunctionalization; benzoic acid is the sole byproduct from collapse of the dibenzoyl-derived oxocarbenium. Synthetic utility includes NaBH4 reduction to gamma-hydroxy esters and KOtBu-mediated conversion of 3aa to trans-cyclopropane 4aa with benzoate as leaving group."}
